US06589978B2
(2RS,5SR)-5-{2-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-ethyl}-3-methyl-[1,2,4]oxadiazole
The title compound, white solid, m.p. 91° C. and MS: m/e=430.5 (M+) was prepared in accordance with the general method of example 13 from N-hydroxy-acetamidine and (2RS,5SR)-3-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propionic acid, which was prepared in accordance with the general method of example 6a from (2RS,5SR)-3-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propionic acid methyl ester.

reactant | N-hydroxy-acetamidine | ONC(C)=N | C2H6N2O
reactant | (2RS,5SR)-3-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propionic acid | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)CCC(=O)O | C20H22FNO4S
product | (2RS,5SR)-5-{2-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-ethyl}-3-methyl-[1,2,4]oxadiazole | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)CCC1=NC(=NO1)C | C22H24FN3O3S
